US05079247
N-[1-[(4-Methylphenyl)methyl]benz[cd]indol-2(1H)ylidene]-1H-imidazole-1-propanamine
A mixture of 2.5 g of 1-[(4-methylphenyl)methyl]benz[cd]indole-2(1H)-thione (Ca) and 1.2 g of 1H-imidazole-1-propanamine in 200 ml of ethyl alcohol is stirred and heated. A 2.7 g portion of mercuric acetate is added, the mixture is stirred at reflux for 6 hours, cooled to room temperature and treated with 2N sodium hydroxide (pH 9). After filtering the solution through diatomaceous earth, the reaction is concentrated in vacuo. The resulting oil is dissolved in dichloromethane, washed neutral with water, dried over sodium sulfate and concentrated in vacuo. The crystalline residue is recrystallized from dichloromethane/hexane giving 2.2 g of the desired product, mp. 94°-95° C.

reactant | 1-[(4-methylphenyl)methyl]benz[cd]indole-2(1H)-thione | 2.5 g | CC1=CC=C(C=C1)CN1C(C2=C3C(C=CC=C13)=CC=C2)=S | C19H15NS
reactant | 1H-imidazole-1-propanamine | 1.2 g | N1(C=NC=C1)CCCN | C6H11N3
reactant | sodium hydroxide | 2N, pH 9 | [OH-].[Na+]
solvent | ethyl alcohol | 200 ml | C(C)O | C2H6O
product | N-[1-[(4-Methylphenyl)methyl]benz[cd]indol-2(1H)ylidene]-1H-imidazole-1-propanamine | CC1=CC=C(C=C1)CN1C(C2=C3C(C=CC=C13)=CC=C2)=NCCCN2C=NC=C2 | C25H24N4
